data/oMe_Silver.jsonl
{"reaction_id": "NR-146_1-C1CCC(C)CC1_2-c2ccc(N(C)C)cc2_3-C(C)(C)C","name": "Mitsunobu Reaction","level": "medium","reactants_smiles": ["[C@@H](O)(C1CCC(C)CC1)(c2ccc(N(C)C)cc2)","O=C(O)C(C)(C)C","c1ccccc1P(c2ccccc2)c3ccccc3","CCOC(=O)N=NC(=O)OCC"],"products_smiles": ["[C@H](OC(=O)C(C)(C)C)(C1CCC(C)CC1)(c2ccc(N(C)C)cc2)"],"conditions": "Ph3P, CCOC(=O)N=NC(=O)OCC","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N([N-]C(=O)OCC)C(=O)OCC","rationale": "Triphenylphosphine attacks the electrophilic azo carbonyl due to its strong nucleophilicity, forming a phosphonium intermediate stabilized by resonance with adjacent carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N(NC(=O)OCC)C(=O)OCC.[O-]C(=O)C(C)(C)C","rationale": "The acidic proton of C(C)(C)C–COOH is abstracted by the basic intermediate, driven by the stability of the resulting carboxylate anion and the favorable formation of a neutral phosphonium species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@@H](O[P+](c1ccccc1)(c2ccccc2)c3ccccc3)(C1CCC(C)CC1)(c2ccc(N(C)C)cc2).[O-]C(=O)C(C)(C)C","rationale": "The alcohol oxygen attacks the electrophilic phosphonium center, forming an oxyphosphonium intermediate; this activates the adjacent carbon for nucleophilic substitution by making it a better leaving group."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@H](OC(=O)C(C)(C)C)(C1CCC(C)CC1)(c2ccc(N(C)C)cc2)","rationale": "The carboxylate anion attacks the activated carbon in an SN2 fashion, favored by the excellent leaving ability of triphenylphosphine oxide and the reaction’s stereospecific inversion requirement."}],"description": "In the Mitsunobu reaction, triphenylphosphine activates the azo reagent to form a reactive intermediate, which deprotonates the acid to generate a nucleophilic anion. This anion then displaces the alcohol via inversion, yielding the ester product under mild, stereospecific conditions."}
{"reaction_id": "NR-113_1-CCCC(C)C_2-CCCC(C)C_3-C(C)(C)C_4-C(C)(C)C_5-C(C)(C)C","level": "medium","name": "Huisgen Cycloaddition","reactants_smiles": ["C(CCCC(C)C)#[N+][O-]","CCCC(C)C/C(C(C)(C)C)=C(/C(C)(C)C)C(C)(C)C"],"products_smiles": ["C1(CCCC(C)C)=NOC(C(C)(C)C)(C(C)(C)C)C1(CCCC(C)C)(C(C)(C)C)"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(CCCC(C)C)=NOC(C(C)(C)C)(C(C)(C)C)C1(CCCC(C)C)(C(C)(C)C)","step_weight": 0,"rationale": "Heat promotes concerted [3+2] cycloaddition as HOMO–LUMO gaps align; the nitrile oxide’s dipolar character and the alkene’s π-system enable synchronous bond formation, yielding a resonance-stabilized isoxazoline ring without intermediates."}],"description": "Under thermal conditions, the 1,3-dipolar cycloaddition between the nitrile oxide and the alkene proceeds via a concerted Huisgen mechanism, forming a five-membered isoxazoline ring. The reaction is driven by favorable orbital overlap and the stability of the heterocycle formed."}
{"reaction_id": "NR-329_1-C_2-COCC_3-c1ccc(C)cc1_4-c1cnccc1","level": "medium","name": "Ramberg-Bäcklund Reaction","reactants_smiles": ["C([H])(C)(COCC)S(=O)(=O)C(Cl)(c1ccc(C)cc1)c1cnccc1"],"products_smiles": ["C(=C(c1ccc(C)cc1)c1cnccc1)(C)COCC"],"conditions": "Strong base (e.g., t-BuOK)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C)(COCC)S(=O)(=O)C(Cl)(c1ccc(C)cc1)c1cnccc1","step_weight": 0,"rationale": "t-BuOK deprotonates the acidic α-proton due to strong electron-withdrawing sulfone stabilization of the resulting carbanion via resonance and inductive effects."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1(C)(COCC)S(=O)(=O)C1(c1ccc(C)cc1)c1cnccc1","step_weight": 0,"rationale": "The nucleophilic carbanion attacks intramolecularly, displacing chloride, favored by good leaving group ability of Cl⁻ and proximity-driven cyclization."},{"step": 3,"type": "pericyclic","subtype": "cheletropic_reaction","intermediate_smiles": "C(=C(c1ccc(C)cc1)c1cnccc1)(C)COCC","step_weight": 0,"rationale": "The strained episulfone undergoes concerted SO₂ extrusion, driven by formation of a stable alkene and release of gaseous SO₂."}],"description": "Under strong base, the α-proton adjacent to the sulfone is abstracted to form a stabilized carbanion, which intramolecularly displaces chloride to form a strained episulfone. This intermediate undergoes a cheletropic elimination of SO₂, yielding the substituted alkene product."}
